US07851473B2
(2) N-(4-Aminophenyl)propanamide
A mixture of N-(4-nitrophenyl)propanamide (10 g, 51.5 mmol), 10% palladium on carbon (1 g), methanol (500 ml) and tetrahydrofuran (100 ml) was stirred under hydrogen atmosphere for 12 hours, insoluble substances were removed by filtration, and the filtrate was concentrated to give 8.00 g (94.8%) of the desired product as an oil.

reactant | N-(4-nitrophenyl)propanamide | 51.5 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C=C1)NC(CC)=O | C9H10N2O3
reactant | methanol | 500 ml | CO | CH4O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(4-Aminophenyl)propanamide | 8.00 g, 94.8% | NC1=CC=C(C=C1)NC(CC)=O | C9H12N2O
